US05643932
In 6 ml of chloroform was dissolved 100 mg of 2-(3,4-dimethoxybenzoyl)-4-(3,4-dihydroxycarbostyril-6-yl)thiazole. Thereto was added sodium boron hydride at room temperature, and the mixture was stirred for 1 hour at the same temperature. The solvent was distilled off. The residue was extracted with chloroform. The extract was water-washed, dried and then subjected to solvent removal by distilation. The residue was purified by silica gel column chromatography (eluent: chloroform/methanol=99/1) and then recrystallized from ethyl acetate to obtain 52 mg of 2-[1-(3,4-dimethoxyphenyl)-1-hydroxymethyl]-4-(3,4-dihydroxycarbostyril-6-yl)thiazole as light brown prismatic crystals.

reactant | 2-(3,4-dimethoxybenzoyl)-4-(3,4-dihydroxycarbostyril-6-yl)thiazole | 100 mg | COC=1C=C(C(=O)C=2SC=C(N2)C=2C=C3C(=C(C(NC3=CC2)=O)O)O)C=CC1OC | C21H16N2O6S
reactant | sodium boron hydride | B.[Na]
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[1-(3,4-dimethoxyphenyl)-1-hydroxymethyl]-4-(3,4-dihydroxycarbostyril-6-yl)thiazole | 52 mg | COC=1C=C(C=CC1OC)C(O)C=1SC=C(N1)C=1C=C2C(=C(C(NC2=CC1)=O)O)O | C21H18N2O6S
